* R5 vendor Kelvin bench - R5_kelvin_2V_1k_100p_Riso47_shunt500
V1 VEE 0 -12
V2 VMINUS 0 -12
V3 VCC 0 12
V4 VPLUS 0 12
Vset IN 0 PULSE(0 2 1u 0.1u 0.1u 20u 40u)
Vcsrc VCsrc 0 5
Vcsnk VCsnk 0 5
Vcom COM 0 0
Ven EN 0 5
XU1 VEE VMINUS OUT SENSEP FILTER SENSEM VCC N_DUT IN VCsnk VCsrc COM EN N_ISRC N_ISNK VPLUS LT1970
Rshunt OUT SENSEP 500
Riso SENSEP N_DUT 47
Rdut N_DUT 0 1k
Cdut N_DUT 0 100p
Cfilter FILTER SENSEM 220p
* Tie Isrc/Isnk floating allowed (warn) or tie to 0 via 10k?
Risrc N_ISRC 0 10k
Risnk N_ISNK 0 10k
.lib C:\Users\azrai\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 40u 0 10n
.meas tran Vpeak MAX V(N_DUT) FROM 0 TO 40u
.meas tran Vfinal AVG V(N_DUT) FROM 30u TO 40u
.meas tran Vmin MIN V(N_DUT) FROM 0 TO 40u
.meas tran Overshoot PARAM (Vpeak-Vfinal)/abs(Vfinal+1e-12)*100
.lib LT1970.sub
.backanno
.end
