* R5 vendor bench - shared high-side shunt approx, LT1970 vendor model
* Shunt 500 (shared), Rdut 1k, Cdut 1n, Riso 47
V1 -V 0 -12
V2 +V 0 12
V3 IN 0 PULSE(0 2 1u 0.1u 0.1u 20u 40u)
XU1 -V -V N004 N004 N005 OUT +V N006 IN N001 N001 N001 N001 0 +V N003 N003 N003 +V LT1970
Rshunt OUT N004 500
Riso N004 N007 47
Rdut N007 0 1k
Cdut N007 0 1n
R2 +V N002 3K
R3 OUT N006 10K
R4 N006 0 10K
D1 N002 N003 QTLP690C
V4 N001 0 5
.model D D
.lib C:\Users\azrai\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 40u 0 10n
.meas tran Vpeak MAX V(N007) FROM 0 TO 40u
.meas tran Vfinal AVG V(N007) FROM 30u TO 40u
.meas tran Overshoot PARAM (Vpeak-Vfinal)/Vfinal*100
.lib LT1970.sub
.backanno
.end
